US04171318
(2,6-Dichloro-3-methyl-4-methoxybenzyl) triphenyl phosphonium chloride (3.86 g., 7.7 mmol) was suspended in 50 ml. of tetrahydrofuran in a 100-ml. three-necked, round-bottomed flask fitted with an argon inlet, internal thermometer and septum. n-Butyllithium (2.3 M, 3.6 ml.) was added slowly at -70° C. thereto and the temperature was allowed to rise to about 30° C. until a clear solution was obtained. Methyl 2(E),4(E),6(Z)-3-methyl-6-fluoro-7-formyl-2,4,6-octatrienoate in 5 ml. of tetrahydrofuran was added at -70° C. thereto. The resulting mixture was stirred at 0° C. for 0.5 hours, poured into water and extracted with 200 ml. of ether-ethyl acetate (1:1 parts by volume). The organic layer was washed with 200 ml. of a saturated sodium chloride solution, dried with 50 g. of sodium sulfate, filtered and evaporated. The resulting material was filtered through 80 g. of silica gel with methylene chloride as elutant. The solvent was evaporated and two crystallizations of the residue from 40 ml. of ethyl acetate-isopropyl ether (1:1 parts by volume) gave 1.32 g. (47%) of methyl 2(E),4(E),6(Z),8(E)-3,7-dimethyl-6-fluoro-9-(2,6-dichloro-3-methyl-4-methoxyphenyl)-nona-2,4,6,8-tetraenoate.

reactant | (2,6-Dichloro-3-methyl-4-methoxybenzyl) triphenyl phosphonium chloride | 7.7 mmol, 3.86 g | [Cl-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC(=C1C)OC)Cl
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-Butyllithium | 2.3 M, 3.6 ml | C(CCC)[Li]
solvent | water | O | H2O
product | ethyl acetate isopropyl ether | C(C)(=O)OCC.C(C)(C)OC(C)C | InChI=1S/C6H14O.C4H8O2/c1-5(2)7-6(3)4;1-3-6-4(2)5/h5-6H,1-4H3;3H2,1-2H3
